US04618627
A mixture of 3.8 g of 6-(3,4-dihydroxyphenyl)hexanoic acid, 8.6 g of benzyl chloride, 9.4 g of potassium carbonate, 0.1 g of potassium iodide, 0.1 g of tetra-n-butylammonium bromide, and 50 ml of N,N-dimethylformamide was stirred overnight at room temperature. After the reaction was over, 200 ml of water was added to the reaction mixture and the product was extracted three times each time with 100 ml of ether. The extracts were combined with each other, washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide a sticky product. The product was applied to silica gel (150 ml) column chromatography and eluted with a mixture of toluene and ethyl acetate (19:1) to provide 3.4 g of benzyl 6-(3,4-dibenzyloxyphenyl)hexanate.

reactant | 6-(3,4-dihydroxyphenyl)hexanoic acid | 3.8 g | OC=1C=C(C=CC1O)CCCCCC(=O)O | C12H16O4
reactant | benzyl chloride | 8.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 9.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | tetra-n-butylammonium bromide | 0.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | potassium iodide | 0.1 g | [I-].[K+]
solvent | water | 200 ml | O | H2O
product | benzyl 6-(3,4-dibenzyloxyphenyl)hexanate | 3.4 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCCCCC(=O)OCC1=CC=CC=C1 | C33H34O4
